US05879657
Boc-D-Val-NMeArg(Tos)-Gly
4.50 g Boc-D-Val-NMeArg(Tos)-Gly-OBzl (4.44 mmol) dissolved in 80 ml methanol was purged with N2 for 10 min. 1.30 g Pd/C catalyst (10% Fluka lot #273890) was then added, and then H2 was passed directly over the surface of the reaction. TLC showed the reaction to be complete within approximately 0.5 hr. After 1 hr. the catalyst was removed by filtering through a bed of Celite, and the solvent removed at 40° under reduced pressure. The resulting solid was triturated well with 50 ml refluxing ether, filtered, and washed with petroleum ether: yield 3.05 g (78%); TLC Rf(CM) =0.03; Rf(CMA) =0.37; NMR is consistent with structure; FABMS M+H+ =599.45 (expected 599.29).

reactant | Boc-D-Val-NMeArg(Tos)-Gly-OBzl | 4.44 mmol, 4.50 g | N([C@H](C(C)C)C(=O)N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)NCC(=O)OCC1=CC=CC=C1)C)C(=O)OC(C)(C)C | C33H48N6O8S
solvent | methanol | 80 ml | CO | CH4O
product | Boc-D-Val-NMeArg(Tos)-Gly | N([C@H](C(C)C)C(=O)N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)NCC(=O)O)C)C(=O)OC(C)(C)C | C26H42N6O8S
